US07750003B2
4-[4-[(3S)-3-Methylmorpholin-4-yl]-6-(2-pyridin-4-ylsulfonylpropan-2-yl)pyrimidin-2-yl]aniline
trans-Dichlorobis (triphenylphosphine)palladium (II) (0.050 g, 0.07 mmol) was added to 2-chloro-4-[(3S)-3-methylmorpholin-4-yl]-6-(2-pyridin-4-ylsulfonylpropan-2-yl)pyrimidine (0.560 g, 1.41 mmol), 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (0.464 g, 2.12 mmol) and sodium carbonate (3.53 mL, 7.05 mmol) in 18% DMF in a mixture of DME:water:ethanol (7:3:2) (30 mL) at RT under nitrogen. The resulting solution was stirred at 80° C. for 5 hours. The reaction was allowed to cool and partitioned between ethyl acetate and water. The aqueous layer was extracted with ethyl acetate twice and the combined organics dried (MgSO4), filtered and evaporated to afford the desired material (0.640 g) which was used without further purification.

reactant | 2-chloro-4-[(3S)-3-methylmorpholin-4-yl]-6-(2-pyridin-4-ylsulfonylpropan-2-yl)pyrimidine | 1.41 mmol, 0.560 g | ClC1=NC(=CC(=N1)N1[C@H](COCC1)C)C(C)(C)S(=O)(=O)C1=CC=NC=C1 | C17H21ClN4O3S
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 2.12 mmol, 0.464 g | CC1(OB(OC1(C)C)C1=CC=C(N)C=C1)C | C12H18BNO2
reactant | sodium carbonate | 7.05 mmol, 3.53 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DME water ethanol | 30 mL | COCCOC.O.C(C)O
catalyst | trans-Dichlorobis (triphenylphosphine)palladium (II) | 0.07 mmol, 0.050 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-[4-[(3S)-3-Methylmorpholin-4-yl]-6-(2-pyridin-4-ylsulfonylpropan-2-yl)pyrimidin-2-yl]aniline | 0.640 g | C[C@@H]1N(CCOC1)C1=NC(=NC(=C1)C(C)(C)S(=O)(=O)C1=CC=NC=C1)C1=CC=C(N)C=C1 | C23H27N5O3S
